US07816526B2
Synthesis of 2-chloro-6-ethynylimidazo[1,2-b]pyridazin-3-ylsulfonamide
N′-(2-Chloro-6-ethynylimidazo[1,2-b]pyridazin-3-ylsulfonyl)-N,N-diisobutylformamidine (792 mg, 2.00 mmol) was suspended in dioxane (10.0 mL), and 28% ammonia water (4.00 g, 65.8 mmol) was added dropwise to the suspension under stirring at room temperature. The mixture was stirred at room temperature for 3 days, then concentrated to remove ammonia, and adjusted to pH 1 with conc. hydrochloric acid. The reaction solution was diluted with water and extracted with ethyl acetate, and the extract was dehydrated over anhydrous magnesium sulfate and concentrated under reduced pressure. The residues were purified by silica gel column chromatography (ethyl acetate:hexane=1:1) to give the title compound as pale yellow crystals. The yield was 71 mg (13.8%).

reactant | N′-(2-Chloro-6-ethynylimidazo[1,2-b]pyridazin-3-ylsulfonyl)-N,N-diisobutylformamidine | 2.00 mmol, 792 mg | ClC=1N=C2N(N=C(C=C2)C#C)C1S(=O)(=O)N=CN(CC(C)C)CC(C)C | C17H22ClN5O2S
reactant | ammonia water | 65.8 mmol, 4.00 g | O.N
solvent | dioxane | 10.0 mL | O1CCOCC1 | C4H8O2
product | 2-chloro-6-ethynylimidazo[1,2-b]pyridazin-3-ylsulfonamide | ClC=1N=C2N(N=C(C=C2)C#C)C1S(=O)(=O)N | C8H5ClN4O2S
